US08017611B2
37% aqueous formaldehyde (0.015 ml) at 0° C., was added to a stirred solution of 3-(4-fluoro-1,3-benzoxazol-2-yl)-5-[1-(4-piperidyl)pyrazol-4-yl]pyridin-2-amine dissolved in dichloromethane (6 ml) and methanol (6 ml) over a period of 5 minutes. The resulting mixture was stirred at 0° C. for 10 minutes. Sodium triacetoxyhydroborate (233 mg) was added at 0° C. to the mixture and stirred at 0° C. for 1 hour. A solution of 7N ammonia in methanol (20 ml) was added to the mixture and adsorbed on silica gel. The crude product was purified by flash chromatography on silica gel eluting with 2 to 6% methanolic ammonia (7 N) in dichloromethane. The solvent was evaporated to dryness and tritured in hot acetonitrile, filtered and dried under reduce pressure to afford 3-(4-fluoro-1,3-benzoxazol-2-yl)-5-[1-(1-methyl-4-piperidyl)pyrazol-4-yl]pyridin-2-amine (268 mg) as a solid.

reactant | formaldehyde | 0.015 ml | C=O | CH2O
reactant | 3-(4-fluoro-1,3-benzoxazol-2-yl)-5-[1-(4-piperidyl)pyrazol-4-yl]pyridin-2-amine | FC1=CC=CC2=C1N=C(O2)C=2C(=NC=C(C2)C=2C=NN(C2)C2CCNCC2)N | C20H19FN6O
reactant | Sodium | [Na] | Na
reactant | ammonia | 7N | N | H3N
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 6 ml | CO | CH4O
product | 3-(4-fluoro-1,3-benzoxazol-2-yl)-5-[1-(1-methyl-4-piperidyl)pyrazol-4-yl]pyridin-2-amine | 268 mg | FC1=CC=CC2=C1N=C(O2)C=2C(=NC=C(C2)C=2C=NN(C2)C2CCN(CC2)C)N | C21H21FN6O
